US08629157B2
Synthesis of [(S)-2-(3-tert-butyl-isoxazol-5-ylcarbamoyl)-pyrrolidin-1-yl]-acetic acid
A solution of 20% trifluoroacetic acid in methylene chloride (20 mL) is added to [(S)-2-(3-tert-butyl-isoxazol-5-ylcarbamoyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester (0.23 g; 0.654 mmol) and the reaction mixture is stirred at room temperature overnight. After this time, the mixture is concentrated in vacuo and purified by preparative HPLC to afford title compound. ESI m/z 296 [M+H]+/294 [M−H]−

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | [(S)-2-(3-tert-butyl-isoxazol-5-ylcarbamoyl)-pyrrolidin-1-yl]-acetic acid tert-butyl ester | 0.654 mmol, 0.23 g | C(C)(C)(C)OC(CN1[C@@H](CCC1)C(NC1=CC(=NO1)C(C)(C)C)=O)=O | C18H29N3O4
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | [(S)-2-(3-tert-butyl-isoxazol-5-ylcarbamoyl)-pyrrolidin-1-yl]-acetic acid | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)CC(=O)O | C14H21N3O4
